US07902194B2
A solution of 2-Amino-4-tert-butyl-benzoic acid (78 mg, 0.41 mmol) in 2 mL trimethylorthoformate was heated to 105° C. for 30 minutes. The resulting solution was concentrated in vacuo. 2-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (100 mg, 0.41 mmol) in 2 mL toluene was added. The resulting mixture was heated at reflux for 1 hour, concentrated in vacuo, and purified by flash chromatography (15% ethylacetate/hexanes) to yield 7-tert-Butyl-3-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3H-quinazolin-4-one (68 mg, 0.16 mmol). MS (ESI) 419.2 (M+H)+.

reactant | 2-Amino-4-tert-butyl-benzoic acid | 0.41 mmol, 78 mg | NC1=C(C(=O)O)C=CC(=C1)C(C)(C)C | C11H15NO2
reactant | 2-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 0.41 mmol, 100 mg | CC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N | C13H20BNO2
reactant | trimethylorthoformate | 2 mL | COC(OC)OC | C4H10O3
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 7-tert-Butyl-3-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3H-quinazolin-4-one | 0.16 mmol, 68 mg | C(C)(C)(C)C1=CC=C2C(N(C=NC2=C1)C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C25H31BN2O3
